data/mechanism_extracts/Angew/10.1002_anie.201801106.json
{"doi": "10.1002_anie.201801106", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical aziridination of triaryl-substituted alkenes using hexafluoroisopropanol sulfamate (HfsNH2) as a nucleophilic nitrogen source, proceeding via stepwise anodic oxidations and two C-N bond formations", "mechanism_family": ["radical_cation", "cation_initiated", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the alkene to a carbon radical cation; a second anodic oxidation of the neutral C-centered radical (after sulfamate addition/deprotonation) to a carbocation; cathodic reduction of protons (assisted by lutidine/LiClO4/MeCN) releases H2", "key_intermediates": [{"name": "alkene radical cation (A)", "smiles": null, "role": "reactive"}, {"name": "neutral β-sulfamyl C-centered radical (B) after nucleophilic addition of HfsNH2 and deprotonation by lutidine", "smiles": null, "role": "transient"}, {"name": "β-sulfamyl carbocation (C) from second anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "aziridine product from intramolecular C-N ring closure", "smiles": null, "role": "reactive"}, {"name": "Ritter-type nitrilium / dihydroimidazole (7a, 7b-7d) from MeCN trapping of cation (off-cycle trap)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the triarylalkene to a carbon radical cation (A); sulfamate nitrogen attacks and lutidine deprotonates to give a neutral β-amido C-radical (B); a second anodic SET oxidizes B to a carbocation (C), which undergoes intramolecular nucleophilic ring closure by the sulfamate nitrogen to deliver the aziridine, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "(E)- and (Z)-stilbene (6a)", "smiles": "C(/c1ccccc1)=C/c1ccccc1", "purpose": "intermediate_trap", "observation": "Cation generated under the conditions is trapped by MeCN solvent to give the same trans-dihydroimidazole (Ritter-type) 7a in 50%/47% from E/Z isomers, supporting a planar carbocation intermediate"}, {"name": "4-Br, 4-Cl, 4-F stilbenes (6b-6d)", "smiles": null, "purpose": "intermediate_trap", "observation": "Also give MeCN-trapped dihydroimidazoles 7b-7d (37-44%), confirming generality of carbocation intermediate"}, {"name": "cyclic voltammetry of 1a, 2a, lutidine, LiClO4", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation wave at ~+2.0 V vs SCE matches the oxidation potential of alkene 1a alone, indicating SET to anode occurs from the alkene, not from sulfamate"}, {"name": "CuI / Rh2(OAc)4", "smiles": null, "purpose": "other", "observation": "Nitrene-pathway metal catalysts gave no or only trace aziridine, arguing against a nitrene mechanism"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors explicitly contrast their alkene-activation pathway with the conventional nitrene/nitrogen-radical pathway (Scheme 1a vs 1b); the failure of CuI and Rh2(OAc)4 nitrene catalysts and the trapping of a planar carbocation (loss of E/Z stereochemistry in stilbene→7a) disfavor a nitrene mechanism. LiClO4-activated 2,6-lutidine or MeCN are proposed to participate in cathodic discharge."}
